US06329370B1
4-(3,5-Dichloro-pyridin-4-ylmethyl)-2-ethyl-7-methoxy-2H-phthalazin-1-one (Compound 20)
A suspension of 4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one (0.52 g, 1.55 mmoles), prepared as described in example 38, in DMF (10 ml) was added with NaH (0.057 g, 1.55 mmoles) and, after 1 hour, with ethyl iodide (0.125 ml, 1.55 mmoles). After 1 night the mixture was diluted with water (10 volumes) and extracted twice with ethyl acetate. The organic phase was anhydrified and concentrated to give a solid which was purified by flash chromatography (eluent: ethyl acetate/petrolatum 3:7). There was thus obtained 0.44 g of the title compound (yield: 78%). m.p.: 150.2-151.2° C.

reactant | 4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one | 1.55 mmoles, 0.52 g | ClC=1C=NC=C(C1CC1=NNC(C2=CC(=CC=C12)OC)=O)Cl | C15H11Cl2N3O2
reactant | NaH | 1.55 mmoles, 0.057 g | [H-].[Na+]
reactant | ethyl iodide | 1.55 mmoles, 0.125 ml | C(C)I | C2H5I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3,5-Dichloro-pyridin-4-ylmethyl)-2-ethyl-7-methoxy-2H-phthalazin-1-one | 0.44 g, yield: 78% | ClC=1C=NC=C(C1CC1=NN(C(C2=CC(=CC=C12)OC)=O)CC)Cl | C17H15Cl2N3O2
